US09079850B2
Preparation of 2-Ethylbutyl Caprylate
187.2 g (1.3 mol) of caprylic acid, 214.0 g (2.09 mol) of 2-ethylbutanol and 0.14 g of tin oxalate (“Fascat 2001”) were heated to 160° C. under N2, during which water separation was observed. Once water separation had subsided, the mixture was heated to 210° C. in 10° C. steps. This temperature was then held for 3 h. Then, firstly the excess alcohol was removed by distillation and then the product was distilled at 8-12 mbar and 136-141° C. The product (225.6 g) was obtained as a clear liquid with an acid number of 0.47 and an OH number of 1.36.

reactant | caprylic acid | 1.3 mol, 187.2 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | 2-ethylbutanol | 2.09 mol, 214.0 g | C(C)C(CO)CC | C6H14O
catalyst | tin oxalate | 0.14 g | C(C(=O)[O-])(=O)[O-].[Sn+4].C(C(=O)[O-])(=O)[O-]
solvent | water | O | H2O
product | 2-Ethylbutyl Caprylate | 225.6 g | C(CCCCCCC)(=O)OCC(CC)CC | C14H28O2
